US04749703
Preparation of 11-[4-[4-(4-fluorophenyl)-1-piperazinyl]butyrylamino]-2-methyl-6,11-dihydrodibenzo[b,e]thiepin-5,5-dioxide:
A mixture of 2.0 g of 11-(4-chlorobutyrylamino)-2-methyl-6,11-dihydrodibenzo[b,e]thiepin-5,5-dioxide, 2.0 g of 1-(4-fluorophenyl)piperazine, 2.0 g of sodium iodide and 20 ml of dimethylformamide is stirred at 100° C. for one hour. After the reaction mixture is cooled to room temperature, 100 ml of 10% aqueous potassium carbonate solution is added and the solution is extracted with three 300-ml portions of chloroform. The combined extracts are washed successively with water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate, and the chloroform is distilled off. The residue is recrystallized from chloroform-diethyl ether to give 2.1 g of the title compound, m.p. 163°-165° C.

reactant | 11-(4-chlorobutyrylamino)-2-methyl-6,11-dihydrodibenzo[b,e]thiepin-5,5-dioxide | 2.0 g | ClCCCC(=O)NC1C2=C(S(CC3=C1C=CC=C3)(=O)=O)C=CC(=C2)C | C19H20ClNO3S
reactant | 1-(4-fluorophenyl)piperazine | 2.0 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | sodium iodide | 2.0 g | [I-].[Na+]
reactant | potassium carbonate | 100 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 11-[4-[4-(4-fluorophenyl)-1-piperazinyl]butyrylamino]-2-methyl-6,11-dihydrodibenzo[b,e]thiepin-5,5-dioxide | 2.1 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)NC1C2=C(S(CC3=C1C=CC=C3)(=O)=O)C=CC(=C2)C | C29H32FN3O3S
